US06329370B1
3-(3-Methanesulfonyl-6-methoxy-4-oxo-3,4-dihydro-phthalazin-yl)-propionic acid ethyl ester (Compound 71)
A suspension of 3-(6-methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester (4 g, 0.0145 mole), prepared as described in example 119, and NaH (0.638 g, 0.016 mole) in acetonitrile (80 ml) was heated at 55° C. After 2 hours the mixture was cooled, added with methanesulfonyl chloride (1.35 ml, 0.017 mole), and stirred at room temperature overnight. K2CO3 (2 g, 0.0145 mole) and methanesulfonyl chloride (1.12 ml, 0.0145 mole) were added, and the mixture was stirred overnight, then dried and partitioned between water and CHCl3. The organic phase was washed with a K2CO3 solution, anhydrified and dried to give a residue which was chromatographed (eluent: CH2Cl2/ethyl acetate 95:5). The resultant solid was crystallised from acetonitrile (5 ml) to give 0.9 g of the title compound (yield: 17.5%).

reactant | 3-(6-methoxy-4-oxo-3,4-dihydro-phthalazin-1-yl)-propionic acid ethyl ester | 0.0145 mole, 4 g | C(C)OC(CCC1=NNC(C2=CC(=CC=C12)OC)=O)=O | C14H16N2O4
reactant | NaH | 0.016 mole, 0.638 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.017 mole, 1.35 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 0.0145 mole, 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonyl chloride | 0.0145 mole, 1.12 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 3-(3-Methanesulfonyl-6-methoxy-4-oxo-3,4-dihydro-phthalazin-yl)-propionic acid ethyl ester | 0.9 g, yield: 17.5% | C(C)OC(CCC1=NN(C(C2=CC(=CC=C12)OC)=O)S(=O)(=O)C)=O | C15H18N2O6S
